US07868008B2
7-Chloro-5-[5-(chloromethyl)-1,2,4-oxadiazol-3-yl]-2-[(4,4-difluoro-cyclohexyl)methyl] isoindolin-1-one
To a solution of 7-Chloro-N-hydroxy-1-oxo-2-[(4,4-difluorocyclohexyl)methyl]-2,3-dihydro-1H-isoindole-5-carboxamidine (450 mg, 1.26 mmol) in acetonitrile (10 ml), chloroacetyl chloride (170 mg, 1.51 mmol) was added, followed by K2CO3 (260 mg, 1.89 mmol). The mixture was stirred overnight. After diluter with EtOAc (20 ml), it was washed with water, brine, dried over anhydrous sodium sulphate, filtered and concentrated to provide a yellow foam. This foam was stirred in DMF (2 ml) at 140° C. for 3 hours. After cooled to room temperature, it was diluted with water (5 ml). The product was extracted with EtOAc. The organic layer was washed with water, brine, dried over anhydrous sodium sulphate, filtered and concentrated. The product was purified by column chromatography (40 to 60% EtOAc in hexanes) to yield the title compound as a white solid

reactant | 7-Chloro-N-hydroxy-1-oxo-2-[(4,4-difluorocyclohexyl)methyl]-2,3-dihydro-1H-isoindole-5-carboxamidine | 1.26 mmol, 450 mg | ClC=1C=C(C=C2CN(C(C12)=O)CC1CCC(CC1)(F)F)C(=N)NO | C16H18ClF2N3O2
reactant | chloroacetyl chloride | 1.51 mmol, 170 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | K2CO3 | 1.89 mmol, 260 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 5 ml | O | H2O
product | 7-Chloro-5-[5-(chloromethyl)-1,2,4-oxadiazol-3-yl]-2-[(4,4-difluoro-cyclohexyl)methyl] isoindolin-1-one | ClC=1C=C(C=C2CN(C(C12)=O)CC1CCC(CC1)(F)F)C1=NOC(=N1)CCl | C18H17Cl2F2N3O2
